US04267377
(1) 2-Methyl-2-(3-oxo-7-octenyl)-1,3-cyclopentanedione
1,7-Octadien-3-one(1.782 g), 2-methyl-1,3-cyclopentanedione (2 g) and triethylamine (4 ml) are added to ethyl acetate (40 ml) and the mixture is stirred at room temperature for 30 hours. The triethylamine and ethyl acetate are evaporated off and the residue is purified by silica gel column chromatography (methylene chloride) to recover 2.744 g of the above-indicated compound. [IR 1723 cm-1, 1641 cm-1, 918 cm-1 ; NMR 1.02 ppm (3H, singlet, --CH3), 4.7-6.2 (3H, multiplet, vinyl)].

reactant | 1,7-Octadien-3-one | 1.782 g | C=CC(CCCC=C)=O | C8H12O
reactant | 2-methyl-1,3-cyclopentanedione | 2 g | CC1C(CCC1=O)=O | C6H8O2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-2-(3-oxo-7-octenyl)-1,3-cyclopentanedione | CC1(C(CCC1=O)=O)CCC(CCCC=C)=O | C14H20O3
